US06806265B2
c) Ethyl 3-[4-(methoxymethoxy)-3-methyl phenyl]-5-isoxazolecarboxylate
Ethyl propiolate (0.60 mL, 5.88 mmol) and 6% W/V NaOCl solution in water (10.8 mL) were added to a solution of 4-(methoxymethoxy)-3-methylbenzaldehyde oxime (570 mg, 2.92 mmol) in THF (12 mL). The reaction mixture was stirred at 25° C. for 2 h then was diluted with EtOAc. The resulting solution was successively washed with aqueous 10% Na2S2O3 solution, water and brine, dried (MgSO4), filtered and concentrated under reduced pressure to yield the title compound (745 mg, 88% yield) as a yellow solid.

reactant | Ethyl propiolate | 5.88 mmol, 0.60 mL | C(C#C)(=O)OCC | C5H6O2
reactant | NaOCl | [O-]Cl.[Na+]
reactant | 4-(methoxymethoxy)-3-methylbenzaldehyde oxime | 2.92 mmol, 570 mg | COCOC1=C(C=C(C=NO)C=C1)C | C10H13NO3
solvent | water | 10.8 mL | O | H2O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 3-[4-(methoxymethoxy)-3-methyl phenyl]-5-isoxazolecarboxylate | 745 mg, 88% yield | COCOC1=C(C=C(C=C1)C1=NOC(=C1)C(=O)OCC)C | C15H17NO5
